US06392059B1
Also, the synthesis was possible separately through following process. Namely, 0.77 g(1.50 equivalents) of N-methylmorpholine and 2.50 g of molecular sieve 4A(MS4A) were added to 1.05 g(4.37 mmol) of (1S,3S,3aS,4R,4aS,8aR,9aS)-4-hydroxy-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan in 10 ml of methylene chloride solution, then 76.8 mg(0.05 equivalents) of tetrapropylammonium perruthenate(TPAP) were added, and the mixture was stirred for 1.5 hours at room temperature. The reaction mixture was filtered through celite and the residue was washed with ether(100 ml). The filtrate was washed with 10% aqueous solution of Na2S2O3 and then with brine (each 20 ml×1). The organic layer was dried over anhydrous magnesium sulfate, filtered and solvent was distilled off to obtain 0.99 g of (1S,3S,3aR,4aS,8aR,9aS)-1-methoxy-3-methyl-4-oxo-dodecahydronaphtho[2,3-c]furan (yield 95%).

reactant | N-methylmorpholine | 0.77 g, 1.50 equivalents | CN1CCOCC1 | C5H11NO
reactant | (1S,3S,3aS,4R,4aS,8aR,9aS)-4-hydroxy-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan | 4.37 mmol, 1.05 g | O[C@@H]1[C@H]2CCCC[C@@H]2C[C@@H]2[C@H](O[C@H]([C@@H]21)C)OC | C14H24O3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (1S,3S,3aR,4aS,8aR,9aS)-1-methoxy-3-methyl-4-oxo-dodecahydronaphtho[2,3-c]furan | 0.99 g, yield 95% | CO[C@H]1O[C@H]([C@H]2[C@@H]1C[C@H]1CCCC[C@@H]1C2=O)C | C14H22O3
